US07399759B2
tert-Butyl 2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridylcarbamate
A mixture of methyl thiosalicylate (0.61 g, 3.7 mmol), 4-tert-butoxycarbonylamino-2-cyanopyridine (0.80 g, 3.7 mmol), triethylamine (0.80 ml, 5.7 mmol) and toluene (2.0 ml) was refluxed for 9 hrs. After cooling, the precipitated crystals were collected by filtration and dried to give the titled compound (0.60 g, 49%).

reactant | methyl thiosalicylate | 3.7 mmol, 0.61 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 4-tert-butoxycarbonylamino-2-cyanopyridine | 3.7 mmol, 0.80 g | C(C)(C)(C)OC(=O)NC1=CC(=NC=C1)C#N | C11H13N3O2
reactant | triethylamine | 5.7 mmol, 0.80 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridylcarbamate | 0.60 g, 49% | O=C1N=C(SC2=C1C=CC=C2)C2=NC=CC(=C2)NC(OC(C)(C)C)=O | C18H17N3O3S
